US04125732
(p-Chlorophenoxy){p-[2-(p-chlorophenoxy)propoxy]phenyl}acetic acid
As described in Example 73, 6.2 g of methyl (p-chlorophenoxy){p-[2-(p-chlorophenoxy)propoxy]phenyl}acetate is hydrolyzed with 4 g of potassium hydroxide to give 5.91 g of gum. Crystallization from hexane-ether gives 4.73 g of off-white crystals. Recrystallization from chloroform-hexane gives white crystals, mp 146°-148° C.

reactant | methyl (p-chlorophenoxy){p-[2-(p-chlorophenoxy)propoxy]phenyl}acetate | 6.2 g | ClC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OCC(C)OC2=CC=C(C=C2)Cl)C=C1 | C24H22Cl2O5
reactant | potassium hydroxide | 4 g | [OH-].[K+]
product | (p-Chlorophenoxy){p-[2-(p-chlorophenoxy)propoxy]phenyl}acetic acid | 5.91 g | ClC1=CC=C(OC(C(=O)O)C2=CC=C(C=C2)OCC(C)OC2=CC=C(C=C2)Cl)C=C1 | C23H20Cl2O5
